US07902218B2
Step I (1): N-butyl-N-methyl-1H-imidazole-1-carboxamide
Butylamine (20 g, 0.23 mol) was dissolved in 100 mL of THF and added at a quick dropwise rate to a suspension of carbonyldiimidazole (37.2 g, 0.23 mol) in 200 mL of THF. The solution was headed to reflux for 3 h, then cooled, treated with 200 mL of water, and partitioned into ethyl acetate. The organic layer was separated and then washed with brine, dried with MgSO4, and then concentrated to the crude imidazolide, which was purified by distillation at 108° C. and 600 mtorr to provide a pure oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.86 (s, 1H), 7.21 (s, 1H), 7.10 (s, 1H), 3.40 (t, J=7.60 Hz, 2H), 3.06 (s, 3H), 1.61 (m, 2H), 1.31 (m, 2H), 0.93 (t, J=7.23 Hz, 3H).

reactant | Butylamine | 0.23 mol, 20 g | C(CCC)N | C4H11N
reactant | carbonyldiimidazole | 0.23 mol, 37.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 200 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-butyl-N-methyl-1H-imidazole-1-carboxamide | C(CCC)N(C(=O)N1C=NC=C1)C | C9H15N3O
